### PR TITLE
feat: add path length for paths in pseudo emetric spaces

### PR DESCRIPTION
**Pull request by Zeta-Wu**
This PR defines the length of a path in a `PseudoEMetricSpace` as its variation on the unit interval.

It proves the basic properties of path length:
- the endpoint distance is bounded by the length;
- the constant path has length zero;
- reversing a path preserves its length;
- concatenating two paths adds their lengths.

Main declarations:
- `Path.length`
- `Path.edist_le_length`
- `Path.length_refl`
- `Path.length_symm`
- `Path.length_trans`

This is intended as a first step toward a broader theory of rectifiable paths, including later results on invariance of length under monotone reparametrization, and shortest paths are line segments up to monotone reparametrization in strict convex spaces.

This PR was discussed on Zulip [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PR.20.2342110.3A.20Path.2Elength.20in.20PseudoEMetricSpace).

AI disclosure: I used an agent called ReasLingo to generate those codes. After the codes are generated I read them line by line and ask the agent to rewrite some proofs when I think it is a bad code. For design decisions, I asked the agent to give me several versions, and I manually picked one of them to make sure it fits human understanding.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Zeta-Wu** [comment]
People has pointed out in zulip chat that my pr is covered by the older pr [#31766](https://github.com/leanprover-community/mathlib4/pull/31766). But that pr's last commit was on 2025 Dec. What should I do? Close my pr or just wait for that pr to merge?

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 1]
```diff
@@ -0,0 +1,248 @@
...
+/-! ## Definition and basic properties -/
+
+/-- The length of a path is its variation on the unit interval. -/
+def length (γ : Path a b) : ℝ≥0∞ :=
+  eVariationOn γ Set.univ
+
+/-- The length of a path is nonnegative. -/
+theorem length_nonneg (γ : Path a b) :
+    0 ≤ γ.length := by
+  exact bot_le
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    0 ≤ γ.length := bot_le
```

Usually, you ca omit `by exact`

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 2]
```diff
@@ -0,0 +1,248 @@
...
+
+/-- The endpoint distance of a path is bounded above by its length. -/
+theorem edist_le_length (γ : Path a b) :
+    edist a b ≤ γ.length := by
+  unfold length
+  simpa using
+    (eVariationOn.edist_le γ (x := (0 : I)) (y := (1 : I)) (by simp) (by simp))
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  unfold length
  trans edist (γ 0) (γ 1)
  · simp
  · exact eVariationOn.edist_le γ (by simp) (by simp)
```
Slightly linger, but more transparent in my opinion.
Note that `simpa [...] using` is arguable not-ideal code style (even though it is widely used); see for example [#mathlib4 > Mathlib code quality: simpa](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.20code.20quality.3A.20simpa/with/581053395)

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 3]
```diff
@@ -0,0 +1,248 @@
...
+
+/-- The constant path has zero length. -/
+@[simp]
+theorem length_refl (x : E) :
+    (Path.refl x).length = 0 := by
+  unfold length
+  apply eVariationOn.constant_on
+  rintro y ⟨t, ht, rfl⟩ z ⟨s, hs, rfl⟩
+  rfl
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  simp
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 4]
```diff
@@ -0,0 +1,248 @@
...
+
+/-- Reversing a path does not change its length. -/
+@[simp]
+theorem length_symm (γ : Path a b) :
+    γ.symm.length = γ.length := by
+  unfold length
+  rw [show ⇑γ.symm = ⇑γ ∘ σ by rfl]
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: `change eVariationOn (⇑γ ∘ σ) univ = _` works here also. (You can always do this instead of `rw [... by rfl]`.

But probably it would be better to have an isolated lemma saying `⇑γ.symm = ⇑γ ∘ σ ` (in whatever generality)

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 5]
```diff
@@ -0,0 +1,248 @@
...
+This file defines the length of a path in a `PseudoEMetricSpace` as its variation on the unit
+interval. It also establishes the basic properties of path length that are needed in later files:
+the endpoint distance bound, invariance under reversal, and additivity under concatenation.
+
+## Main declarations
+
+- `Path.length`
+- `Path.edist_le_length`
+- `Path.length_symm`
+- `Path.length_trans`
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: Can you add one sentence each what these theorems are proving?

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 6]
```diff
@@ -0,0 +1,248 @@
...
+  simpa [Set.range_eq_univ.2 unitInterval.symm_bijective.surjective] using
+    (eVariationOn.comp_eq_of_antitoneOn
+      (f := γ)
+      (t := (Set.univ : Set I))
+      (φ := σ)
+      (by
+        intro x hx y hy hxy
+        change (σ y : ℝ) ≤ (σ x : ℝ)
+        rw [coe_symm_eq, coe_symm_eq]
+        linarith [show (x : ℝ) ≤ (y : ℝ) from hxy]))
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: This `simpa` is very messy. Can you try to simplify this? Probably something similar than I suggested earlier will work

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 7]
```diff
@@ -0,0 +1,248 @@
...
+module
+
+public import Mathlib.Topology.EMetricSpace.BoundedVariation
+public import Mathlib.Topology.Path
+public import Mathlib.Topology.UnitInterval
+
+/-!
+# Length of paths
+
+This file defines the length of a path in a `PseudoEMetricSpace` as its variation on the unit
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean:14]: I want to note that we will eventually be able to generalise this to `WeakPseudoEMetricSpace` (but at this point not yet)

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 8]
```diff
@@ -0,0 +1,248 @@
+/-
+Copyright (c) 2026 Zhenhua Wu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Zhenhua Wu
+-/
+module
+
+public import Mathlib.Topology.EMetricSpace.BoundedVariation
+public import Mathlib.Topology.Path
+public import Mathlib.Topology.UnitInterval
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
```
redundant import

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 9]
```diff
@@ -0,0 +1,248 @@
...
+private lemma eVariationOn_extend_eq (γ : Path a b) :
+    eVariationOn γ.extend (Icc (0 : ℝ) 1) = eVariationOn γ Set.univ := by
+  have hrestrict :=
+    eVariationOn.comp_eq_of_monotoneOn
+      (f := γ.extend)
+      (t := (Set.univ : Set I))
+      ((↑) : I → ℝ)
+      (by
+        intro x hx y hy hxy
+        exact hxy)
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: tactic proofs are totally fine.

write down the type of `hrestrict` explictly and then prove it by first doing `apply eVariationOn.comp_eq_of_monotoneOn` or something similar

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 10]
```diff
@@ -0,0 +1,248 @@
...
+        change (σ y : ℝ) ≤ (σ x : ℝ)
+        rw [coe_symm_eq, coe_symm_eq]
+        linarith [show (x : ℝ) ≤ (y : ℝ) from hxy]))
+
+/-! ## Auxiliary lemmas for concatenation -/
+
+/-- Auxiliary lemma: the variation of `γ.extend` on `[0,1]`
+agrees with the variation of `γ`. -/
+private lemma eVariationOn_extend_eq (γ : Path a b) :
+    eVariationOn γ.extend (Icc (0 : ℝ) 1) = eVariationOn γ Set.univ := by
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I imagine this could be useful in other places so it probably doesnt need to be private.

But I would phrase it `γ.length = eVariationOn γ.extend (Icc (0 : ℝ) 1)` (and rename the lemma accordingly)

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 11]
```diff
@@ -0,0 +1,248 @@
...
+        intro x hx y hy hxy
+        exact hxy)
+  have himage : ((↑) : I → ℝ) '' (Set.univ : Set I) = Icc (0 : ℝ) 1 := by
+    ext x
+    constructor
+    · rintro ⟨y, hy, rfl⟩
+      exact y.2
+    · intro hx
+      refine ⟨⟨x, hx⟩, ?_, rfl⟩
+      trivial
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    exact Subtype.coe_image_univ I
```
:)
(In other words you dont need this at all)

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 12]
```diff
@@ -0,0 +1,248 @@
...
+        = eVariationOn γ Set.univ := by
+    apply eVariationOn.congr
+    intro t ht
+    exact Path.extend_extends' γ t
+  calc
+    eVariationOn γ.extend (Icc (0 : ℝ) 1)
+        = eVariationOn (γ.extend ∘ ((↑) : I → ℝ)) (Set.univ : Set I) := by
+            symm
+            simpa [Function.comp, himage] using hrestrict
+    _ = eVariationOn γ Set.univ := hcongr
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
calc
    _ = eVariationOn (γ.extend ∘ ((↑) : I → ℝ)) (Set.univ : Set I) := by
      symm
      simpa [Function.comp, himage] using hrestrict
    _ = eVariationOn γ Set.univ := hcongr
```
+ you can inline `hcongr` and `hrestrict`. They are both basically the proofs of the `calc` steps

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 13]
```diff
@@ -0,0 +1,248 @@
...
+  · intro hx
+    refine ⟨⟨x / 2, ?_⟩, ?_, ?_⟩
+    · constructor
+      · nlinarith [hx.1]
+      · nlinarith [hx.2]
+    · constructor
+      · simp
+      · change ((x / 2 : ℝ) ≤ (1 / 2 : ℝ))
+        nlinarith [hx.2]
+    · nlinarith
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
simp only [one_div, mem_image, mem_Icc, zero_le, true_and, Subtype.exists, Subtype.mk_le_mk,
    exists_and_left, exists_prop]
  constructor
  · grind
  · intros
    exact ⟨2⁻¹ * x, by grind⟩
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 14]
```diff
@@ -0,0 +1,248 @@
...
+    · intro hx
+      refine ⟨σ x, ?_, ?_⟩
+      · constructor
+        · exact (σ x).2.1
+        · have hx' : (1 / 2 : ℝ) ≤ (x : ℝ) := hx.1
+          have : (1 / 2 : ℝ) ≤ (σ (σ x) : ℝ) := by simpa using hx'
+          exact (half_le_symm_iff (σ x)).1 this
+      · exact unitInterval.symm_symm x
+  rw [himage] at hcomp
+  exact hcomp
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: You can simplify this proof with a lot of the suggestions i gave before.
For example: make use of `simp/grind`; no `rw [show ... from rfl]`, watch out if you really need the `have` statements

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 15]
```diff
@@ -0,0 +1,248 @@
...
+
+/-! ## Length of concatenations -/
+
+/-- The variation of a concatenation on its left half is the variation of the first path. -/
+private lemma eVariationOn_trans_left
+    (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc 0 half)
+      = eVariationOn γ Set.univ := by
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
private lemma eVariationOn_trans_left (γ : Path a b) (η : Path b c) :
    eVariationOn (γ.trans η) (Icc 0 half) = eVariationOn γ Set.univ := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 16]
```diff
@@ -0,0 +1,248 @@
...
+        (t := Icc (0 : I) half)
+        (φ := fun t : I ↦ (2 : ℝ) * t)
+        (by
+          intro x hx y hy hxy
+          exact mul_le_mul_of_nonneg_left (show (x : ℝ) ≤ (y : ℝ) from hxy) (by positivity))
+  calc
+    eVariationOn (γ.extend ∘ fun t : I ↦ (2 : ℝ) * t) (Icc 0 half)
+        = eVariationOn γ.extend (Icc (0 : ℝ) 1) := by
+            rw [hcomp, image_double_Icc_half]
+    _ = eVariationOn γ Set.univ := eVariationOn_extend_eq γ
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: Again, try to simplify this with earlier suggestions

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 17]
```diff
@@ -0,0 +1,248 @@
...
+
+/-- The variation of a concatenation on its right half is the variation of the second path. -/
+private lemma eVariationOn_trans_right
+    (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc half 1)
+      = eVariationOn η Set.univ := by
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
private lemma eVariationOn_trans_right (γ : Path a b) (η : Path b c) :
    eVariationOn (γ.trans η) (Icc half 1) = eVariationOn η Set.univ := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 18]
```diff
@@ -0,0 +1,248 @@
...
+  calc
+    eVariationOn (γ.trans η) (Icc half 1)
+        = eVariationOn (γ.trans η).symm (Icc 0 half) := by
+            simpa using (eVariationOn_symm_Icc_left_half (γ := γ.trans η)).symm
+    _ = eVariationOn η.symm Set.univ := by
+          simpa [Path.trans_symm] using eVariationOn_trans_left (γ := η.symm) (η := γ.symm)
+    _ = eVariationOn η Set.univ := by
+          simpa [length] using (length_symm η)
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    _ = eVariationOn (γ.trans η).symm (Icc 0 half) := by
        simpa using (eVariationOn_symm_Icc_left_half (γ := γ.trans η)).symm
    _ = eVariationOn η.symm Set.univ := by
        simpa [Path.trans_symm] using eVariationOn_trans_left (γ := η.symm) (η := γ.symm)
    _ = eVariationOn η Set.univ := by
        simpa [length] using (length_symm η)
```
Probably a lot of this simpa are redundant and can be replaced with more transparent tactics

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 19]
```diff
@@ -0,0 +1,248 @@
...
+  have hI : (Icc (0 : I) 1 : Set I) = Set.univ := by
+    ext t
+    constructor
+    · intro _
+      trivial
+    · intro _
+      exact ⟨t.2.1, t.2.2⟩
+  rw [hI] at h'
+  rw [← h']
+  rw [eVariationOn_trans_left, eVariationOn_trans_right]
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
theorem length_transv (γ : Path a b) (η : Path b c) :
    (γ.trans η).length = γ.length + η.length := by
  unfold length
  have h :=
    eVariationOn.Icc_add_Icc (f := γ.trans η) (s := Set.univ)
      (a := (0 : I)) (c := (1 : I))
      (by norm_num) (by change (1 / 2 : ℝ) ≤ 1; norm_num) (Set.mem_univ half)
  simp only [Set.univ_inter] at h
  rw [← univ_eq_Icc] at h
  rw [← h, eVariationOn_trans_left, eVariationOn_trans_right]
```
This can be further improved if you have private lemmas saying that 0 \le half and half \le 1. Thee you can save the `(a := (0 : I)) (c := (1 : I))` line (and probably simplify other proofs as well)

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 20]
```diff
@@ -0,0 +1,248 @@
...
+
+end
+end
+end Path
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean:138]:
```suggestion
end

end

end Path
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 21]
```diff
@@ -0,0 +1,248 @@
...
+open Set unitInterval
+
+namespace Path
+
+@[expose] public section
+
+noncomputable section
+local notation "half" => (⟨(1 / 2 : ℝ), by constructor <;> norm_num⟩ : I)
+variable {E : Type*} [PseudoEMetricSpace E]
+variable {a b c : E}
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
noncomputable section

variable {E : Type*} [PseudoEMetricSpace E] {a b c : E}

local notation "half" => (⟨(1 / 2 : ℝ), by constructor <;> norm_num⟩ : I)
```

**Review by felixpernegger — COMMENTED** [review]
Thank you for the PR!

Since the old PR is indeed inactive, i think its fine to add this. There is a lot of stuff that could be added here (in later PRs, but maybe add as todo), like that reparametrization doesnt change the length.
Another thing im wondering about: In the euclidean space, straight lines have length equal to the distance of there endpoints. To what extent can this be generalised?

**Comment by felixpernegger** [comment]
awaiting-author

**Comment by Zeta-Wu** [comment]
> Thank you for the PR!
> 
> Since the old PR is indeed inactive, i think its fine to add this. There is a lot of stuff that could be added here (in later PRs, but maybe add as todo), like that reparametrization doesnt change the length. Another thing im wondering about: In the euclidean space, straight lines have length equal to the distance of there endpoints. To what extent can this be generalised?

It can be generalized to strict convex spaces and I already proved that in my local project, but I don't want to PR too much codes in one PR because of the pressure on the reviewer. The final statement in lean is:
```
/-- Monotone self-maps of the unit interval fixing the endpoints. -/
structure MonotoneReparam where
  /-- The underlying self-map of the unit interval. -/
  toFun : I → I
  /-- A monotone reparametrization is continuous. -/
  continuous_toFun : Continuous toFun
  /-- A monotone reparametrization fixes the left endpoint. -/
  map_zero' : toFun 0 = 0
  /-- A monotone reparametrization fixes the right endpoint. -/
  map_one' : toFun 1 = 1
  /-- A monotone reparametrization is monotone. -/
  monotone_toFun : Monotone toFun
variable [NormedAddCommGroup E] [NormedSpace ℝ E] [StrictConvexSpace ℝ E]
variable {a b : E}
/-- Between any two points in a strictly convex normed space, a shortest path exists, and every
shortest path is the straight segment up to monotone reparametrization. -/
theorem exists_shortestPath_unique_up_to_reparamMonotone (a b : E) :
    (∃ γ : Path a b, ∀ τ : Path a b, γ.length ≤ τ.length) ∧
      ∀ γ : Path a b, (∀ τ : Path a b, γ.length ≤ τ.length) →
        ∃ φ : MonotoneReparam, γ = (Path.segment a b).reparamMonotone φ := by
  refine ⟨?_, ?_⟩
  · refine ⟨Path.segment a b, ?_⟩
    intro τ
    exact segment_is_shortest a b τ
  · intro γ hγ
    exact shortestPath_eq_segment_reparam γ hγ
```

**Comment by Zeta-Wu** [comment]
Thanks for your suggestion. I will apply your suggestion ASAP.

**Comment by felixpernegger** [comment]
Indeed PRs typically shouldnt be > 300 LoC

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 2 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: I replaced all simpa in the file.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 4 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Added that lemma, and marked as privated.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 7 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean:14]: OK. Noted.

**Comment by Zeta-Wu** [comment]
All done! Good advice!
1. Replaced all simpa.
2. Try to use simp and grind everywhere.
3. updated docstring.
4. Try to have less [have] and more inline.
5. every other review suggestion.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 22]
```diff
@@ -0,0 +1,208 @@
...
+/-- The variation of a concatenation on its left half is the variation of the first path. -/
+private lemma eVariationOn_trans_left (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc 0 half) = eVariationOn γ Set.univ := by
+  refine (eVariationOn.congr
+    (g := fun t : I ↦ γ.extend (2 * (t : ℝ)))
+    ?_).trans ?_
+  · intro t ht
+    have hle : (t : ℝ) ≤ (1 / 2 : ℝ) := ht.2
+    rw [Path.trans_apply, dif_pos hle]
+    rw [← Path.extend_apply γ (by grind)]
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    rw [Path.trans_apply, dif_pos hle, ← Path.extend_apply γ (by grind)]
```
merging `rw`'s is generally a good thing

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 23]
```diff
@@ -0,0 +1,208 @@
...
+  · change eVariationOn (γ.extend ∘ fun t : I ↦ (2 : ℝ) * t) (Icc 0 half)
+        = eVariationOn γ Set.univ
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  · change eVariationOn (γ.extend ∘ fun t : I ↦ (2 : ℝ) * t) (Icc 0 half) = eVariationOn γ Set.univ
```
fits on one line

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 24]
```diff
@@ -0,0 +1,208 @@
...
+private lemma eVariationOn_symm_Icc_left_half (γ : Path a b) :
+    eVariationOn γ.symm (Icc 0 half) = eVariationOn γ (Icc half 1) := by
+  rw [symm_eq_comp γ]
+  calc
+    _ = eVariationOn γ (σ '' Icc (0 : I) half) := by
+          apply eVariationOn.comp_eq_of_antitoneOn
+          intro x hx y hy hxy
+          change (σ y : ℝ) ≤ (σ x : ℝ)
+          rw [coe_symm_eq, coe_symm_eq]
+          linarith [show (x : ℝ) ≤ (y : ℝ) from hxy]
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    _ = eVariationOn γ (σ '' Icc (0 : I) half) := by
        apply eVariationOn.comp_eq_of_antitoneOn
        intro x hx y hy hxy
        change (σ y : ℝ) ≤ (σ x : ℝ)
        rw [coe_symm_eq, coe_symm_eq]
        linarith [show (x : ℝ) ≤ (y : ℝ) from hxy]
```
the proof should have the same indendaton as the relation is `calc` blocks (note this convention is *widely* inconsistent across mathlib), similar with your other calc blocks

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 25]
```diff
@@ -0,0 +1,208 @@
...
+            · exact (σ t).2.2
+          · intro hx
+            refine ⟨σ x, ?_, ?_⟩
+            · constructor
+              · simp
+              · have : (1 / 2 : ℝ) ≤ (σ (σ x) : ℝ) := by
+                  rw [unitInterval.symm_symm]
+                  exact hx.1
+                exact (half_le_symm_iff (σ x)).1 this
+            · simp
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: this is a bit annoying, but i also dont see a way to simplify this much

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 26]
```diff
@@ -0,0 +1,208 @@
...
+
+/-! ## Length of concatenations -/
+
+/-- The variation of a concatenation on its left half is the variation of the first path. -/
+private lemma eVariationOn_trans_left (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc 0 half) = eVariationOn γ Set.univ := by
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: If you phrase the RHS with length, you can avoid the last step

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 27]
```diff
@@ -0,0 +1,208 @@
...
+            intro x hx y hy hxy
+            exact mul_le_mul_of_nonneg_left hxy (by positivity)
+      _ = eVariationOn γ.extend (Icc (0 : ℝ) 1) := by
+            rw [image_double_Icc_half]
+      _ = γ.length := (length_eq_eVariationOn_extend γ).symm
+      _ = eVariationOn γ Set.univ := rfl
+
+/-- The variation of a concatenation on its right half is the variation of the second path. -/
+private lemma eVariationOn_trans_right (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc half 1) = eVariationOn η Set.univ := by
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: if you phrase the RHS with length, you can avoid the `change` later

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 28]
```diff
@@ -0,0 +1,208 @@
...
+    γ.symm.length = γ.length := by
+  unfold length
+  rw [symm_eq_comp γ]
+  have h :=
+    eVariationOn.comp_eq_of_antitoneOn (f := γ) (t := (Set.univ : Set I)) (φ := σ)
+      (by
+        intro x hx y hy hxy
+        change (σ y : ℝ) ≤ (σ x : ℝ)
+        rw [coe_symm_eq, coe_symm_eq]
+        linarith [show (x : ℝ) ≤ (y : ℝ) from hxy])
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: Please make this more readable; i.e. write don the type of `h`, then do `:= by apply eVariationOn.comp_eq_of_antitoneOn` ...

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 29]
```diff
@@ -0,0 +1,208 @@
...
+            · simp
+
+/-! ## Length of concatenations -/
+
+/-- The variation of a concatenation on its left half is the variation of the first path. -/
+private lemma eVariationOn_trans_left (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc 0 half) = eVariationOn γ Set.univ := by
+  refine (eVariationOn.congr
+    (g := fun t : I ↦ γ.extend (2 * (t : ℝ)))
+    ?_).trans ?_
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  refine (eVariationOn.congr (g := fun t : I ↦ γ.extend (2 * (t : ℝ))) ?_).trans ?_
```

**Comment by CoolRmal** [comment]
I am a bit unsure about the design choices. As you mentioned in the PR description we also want to reason about the length of a rectifiable curve that is not necessarily continuous, so why are we only defining the notion of length for [Path](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Path.html#Path), which is defined to be continuous?

And in fact as `eVariationOn` is ENNReal valued, the notion of length should make sense for any function defined on a interval, so I see not advantage of introducing this definition of length, which seems to be a meaningless wrapper.

**Comment by Zeta-Wu** [comment]
> I am a bit unsure about the design choices. As you mentioned in the PR description we also want to reason about the length of a rectifiable curve that is not necessarily continuous, so why are we only defining the notion of length for [Path](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Path.html#Path), which is defined to be continuous?
> 
> And in fact as `eVariationOn` is ENNReal valued, the notion of length should make sense for any function defined on a interval, so I see not advantage of introducing this definition of length, which seems to be a meaningless wrapper.

I agree that the older PR design is much more general, I liked that as well.
1. At first I just wanted to formalise of a version of theorem that shortest path between two points is the straight line segment up to reparametrisation. But I realise that there is no arclength in mathlib and I have to build one myself. But I don't want to start from scratch, the closest thing I can find is the existing [Path a b] in mathlib, which is fine for me. I did try to prove the theorem without introducing the wrapper Path.length, but I find that proof is rather hard to read.
2. I did try to make it as general as possible, e.g. I used PseudoEMetricSpace instead of Metric Space. I didn't know about the old PR when I did this project so I didn't even think of this level of generality. At this point I don't want to erase everything and start again. I mean, I can copy and paste part of the old PR, but is that allowed?

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 24 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Done. Also with other calc blocks.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 25 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Agree.

Comment (pelicanhere) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Key idea: use `ContinuousOn.image_Icc_of_antitoneOn` to avoid manually proving the interval image under `σ`.

```lean
private lemma symm_half : σ half = half := by
  ext
  norm_num [unitInterval.symm]

private lemma eVariationOn_symm_Icc_left_half (γ : Path a b) :
    eVariationOn γ.symm (Icc 0 half) = eVariationOn γ (Icc half 1) := by
  calc
    _ = eVariationOn γ (σ '' Icc 0 half) := 
      eVariationOn.comp_eq_of_antitoneOn γ σ fun _ _ _ _ hxy => symm_le_symm.mpr hxy
    _ = eVariationOn γ (Icc half 1) := by
      rw [ContinuousOn.image_Icc_of_antitoneOn zero_le_half continuous_symm.continuousOn 
      (strictAnti_symm.antitone.antitoneOn _), symm_half, symm_zero]
```

Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Thanks. Fixed.

**Comment by felixpernegger** [comment]
@Zeta-Wu when you feel like you have adressed all review comments, type "-awaiting-author" to remove the label

**Comment by Zeta-Wu** [comment]
-awaiting-author

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 30]
```diff
@@ -0,0 +1,194 @@
...
+-/
+
+open scoped ENNReal
+open Set unitInterval
+
+namespace Path
+
+@[expose] public section
+
+noncomputable section
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
@[expose] public noncomputable section
```

**Review by felixpernegger — APPROVED** [review]
Since my review was requested; I think this PR is good. I dont see an issue with adding an extra def for `length`, since I dont think many people associate it with the variation of a function intuitively (even though the current def arguable could be more general).

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 31]
```diff
@@ -0,0 +1,189 @@
...
+/-!
+# Length of paths
+
+This file defines the length of a path in a `PseudoEMetricSpace` as its variation on the unit
+interval. It also establishes the basic properties of path length that are needed in later files:
+the endpoint distance bound, invariance under reversal, and additivity under concatenation.
+
+## Main declarations
+
+- `Path.length`: the length of a path, defined as its variation on the unit interval.
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think you need to do bullet points with `*` instead of `-`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 32]
```diff
@@ -0,0 +1,189 @@
...
+
+public import Mathlib.Topology.EMetricSpace.BoundedVariation
+public import Mathlib.Topology.Path
+
+/-!
+# Length of paths
+
+This file defines the length of a path in a `PseudoEMetricSpace` as its variation on the unit
+interval. It also establishes the basic properties of path length that are needed in later files:
+the endpoint distance bound, invariance under reversal, and additivity under concatenation.
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: The "later files" you speak of don't currently exist so I would reformulate this as "It also established basic properties such as ....". Or you delete this altogether since there is a declaration section.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 33]
```diff
@@ -0,0 +1,189 @@
...
+## Main declarations
+
+- `Path.length`: the length of a path, defined as its variation on the unit interval.
+- `Path.edist_le_length`: the endpoint distance is bounded above by the length.
+- `Path.length_symm`: reversing a path does not change its length.
+- `Path.length_trans`: the length of a concatenation is the sum of the lengths.
+
+## TODO
+
+- Prove that path length is invariant under reparametrization.
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: Are you planning to work on this? Then I think it might be good to put your name down so that people know that this isn't a ToDo where help is needed.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 34]
```diff
@@ -0,0 +1,189 @@
...
+theorem length_nonneg (γ : Path a b) :
+    0 ≤ γ.length := bot_le
+
+/-- The endpoint distance of a path is bounded above by its length. -/
+theorem edist_le_length (γ : Path a b) :
+    edist a b ≤ γ.length := by
+  unfold length
+  trans edist (γ 0) (γ 1)
+  · simp
+  · exact eVariationOn.edist_le γ (by simp) (by simp)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  simp_rw [← γ.source, ← γ.target]
  exact eVariationOn.edist_le γ (mem_univ 0) (mem_univ 1)
```
I think this is a little clearer. You are doing a transitivity argument even though the left inequality is an equality.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 35]
```diff
@@ -0,0 +1,189 @@
...
+
+/-- The constant path has zero length. -/
+@[simp]
+theorem length_refl (x : E) :
+    (Path.refl x).length = 0 := by
+  unfold length
+  apply eVariationOn.constant_on
+  simp
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  apply eVariationOn.constant_on
  simp
```
`apply` can see through the definition.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 36]
```diff
@@ -0,0 +1,189 @@
...
+
+/-- Auxiliary lemma: the reversed path is obtained by composing with unit-interval symmetry. -/
+private lemma symm_eq_comp (γ : Path a b) : ⇑γ.symm = ⇑γ ∘ σ := rfl
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think this is a useful lemma in general. I think you should have it public and move it to an appropriate file.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 37]
```diff
@@ -0,0 +1,189 @@
...
+  unfold length
+  rw [symm_eq_comp γ]
+  have h : eVariationOn (γ ∘ σ) (Set.univ : Set I) = eVariationOn γ (σ '' (Set.univ : Set I)) := by
+    apply eVariationOn.comp_eq_of_antitoneOn (f := γ) (t := (Set.univ : Set I)) (φ := σ)
+    intro x hx y hy hxy
+    change (σ y : ℝ) ≤ (σ x : ℝ)
+    rw [coe_symm_eq, coe_symm_eq]
+    linarith [show (x : ℝ) ≤ (y : ℝ) from hxy]
+  rw [Set.image_univ, Set.range_eq_univ.2 unitInterval.symm_bijective.surjective] at h
+  exact h
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  unfold length
  rw [symm_eq_comp γ, eVariationOn.comp_eq_of_antitoneOn _ _ (unitInterval.antitone_symm.antitoneOn 
    univ), image_univ_of_surjective unitInterval.symm_bijective.surjective]
```

Where you need to write the lemma `unitInterval.antitone_symm` first. (Proving that `unitInterval.symm` is antitone). And then put that lemma in an appropriate file.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 38]
```diff
@@ -0,0 +1,189 @@
...
+    _ = eVariationOn (γ.extend ∘ ((↑) : I → ℝ)) (Set.univ : Set I) := by
+        apply eVariationOn.congr
+        intro t ht
+        exact (Path.extend_extends' γ t).symm
+    _ = eVariationOn γ.extend (((↑) : I → ℝ) '' (Set.univ : Set I)) := by
+        apply eVariationOn.comp_eq_of_monotoneOn
+        intro x hx y hy hxy
+        exact hxy
+    _ = eVariationOn γ.extend (Icc (0 : ℝ) 1) := by
+        rw [himage]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  unfold length
  rw [← domRestrict_extend, eVariationOn.comp_eq_of_monotoneOn _ _ 
    ((Subtype.mono_coe _).monotoneOn univ), Subtype.coe_image_univ I]
```

From your first `calc` step you can extract a lemma saying that `γ.extend ∘ Subtype.val = γ` (which I have called `Path.domRestrict_extend` here). You should add such a lemma in an appropriate file and then simply do the rest of the calc steps as rewrites.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 39]
```diff
@@ -0,0 +1,189 @@
...
+
+/-! ## Definition and basic properties -/
+
+/-- The length of a path is its variation on the unit interval. -/
+def length (γ : Path a b) : ℝ≥0∞ :=
+  eVariationOn γ Set.univ
+
+/-- The length of a path is nonnegative. -/
+theorem length_nonneg (γ : Path a b) :
+    0 ≤ γ.length := bot_le
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I don't think we need this lemma since this information is already in the type of the length.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 40]
```diff
@@ -0,0 +1,189 @@
...
+open scoped ENNReal
+open Set unitInterval
+
+namespace Path
+
+@[expose] public noncomputable section
+
+variable {E : Type*} [PseudoEMetricSpace E] {a b c : E}
+
+local notation "half" => (⟨(1 / 2 : ℝ), by constructor <;> norm_num⟩ : I)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
local notation "half" => (⟨1 / 2, by norm_num⟩ : I)
```

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! Here is a first round of comments from me. 

In general I think you should think more about which parts of your PR might be reusable. You mark some things as private that might be useful to other people. Additionally, parts of your proofs can sometimes be extracted into their own lemmas. I have left some comments in that direction.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 35 above)
Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: I dont think just because some unfold is redundant, it is always good practice to remove it.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 37 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: The file `unitInterval` has the stronger version theorem `strictAnti_symm : StrictAnti σ ` so I am gonna use that instead.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 36 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Good idea. Done.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 38 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Good idea. Done, But with the name `restrict_extend` to be compatible with the other names in the file `Path`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 33 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Yes and I have already done that and much more. I don't want to PR too many codes at one time because of the pressure on the reviewer. I have added my name now.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 41]
```diff
@@ -0,0 +1,161 @@
...
+is the length of the second path. -/
+private lemma eVariationOn_trans_right (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc half 1) = η.length := by
+  calc
+    _ = eVariationOn (γ.trans η).symm (Icc 0 half) := by
+        exact (eVariationOn_symm_Icc_left_half (γ := γ.trans η)).symm
+    _ = eVariationOn η.symm Set.univ := by
+        rw [Path.trans_symm]
+        exact eVariationOn_trans_left (γ := η.symm) (η := γ.symm)
+    _ = eVariationOn η Set.univ := length_symm η
```
Comment (pelicanhere) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
private lemma eVariationOn_trans_right (γ : Path a b) (η : Path b c) :
    eVariationOn (γ.trans η) (Icc half 1) = η.length := by
  calc
    _ = eVariationOn (γ.trans η).symm (Icc 0 half) :=
      (eVariationOn_symm_Icc_left_half (γ.trans η)).symm
    _ = η.length := by
      rw [← length_symm, Path.trans_symm]
      exact eVariationOn_trans_left η.symm γ.symm
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 42]
```diff
@@ -0,0 +1,161 @@
...
+of the unit interval onto `[0,1]`. -/
+private lemma image_double_Icc_half :
+    (fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) half = Icc (0 : ℝ) 1 := by
+  ext x
+  simp only [one_div, mem_image, mem_Icc, zero_le, true_and, Subtype.exists, Subtype.mk_le_mk,
+    exists_and_left, exists_prop]
+  constructor
+  · grind
+  · intros
+    exact ⟨2⁻¹ * x, by grind⟩
```
Comment (pelicanhere) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
private lemma image_double_Icc_half :
    (fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) half = Icc (0 : ℝ) 1 := by
  rw [ContinuousOn.image_Icc_of_monotoneOn nonneg' (by fun_prop) 
    (Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)]
  simp
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 43]
```diff
@@ -0,0 +1,161 @@
...
+
+/-- Auxiliary lemma: `0 ≤ half` in the unit interval. -/
+private lemma zero_le_half : (0 : I) ≤ half := by
+  change (0 : ℝ) ≤ (1 / 2 : ℝ)
+  norm_num
+
+/-- Auxiliary lemma: `half ≤ 1` in the unit interval. -/
+private lemma half_le_one : half ≤ (1 : I) := by
+  change (1 / 2 : ℝ) ≤ (1 : ℝ)
+  norm_num
```
Comment (pelicanhere) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion

```
These two lemmas can be replaced by `unitInterval.nonneg` and `unitInterval.le_one'`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 44]
```diff
@@ -0,0 +1,161 @@
...
+/-- The length of a concatenation is the sum of the lengths of the two pieces. -/
+theorem length_trans (γ : Path a b) (η : Path b c) :
+    (γ.trans η).length = γ.length + η.length := by
+  unfold length
+  have h := eVariationOn.Icc_add_Icc (f := γ.trans η) (s := Set.univ)
+    zero_le_half half_le_one (Set.mem_univ half)
+  simp only [Set.univ_inter] at h
+  rw [← unitInterval.univ_eq_Icc] at h
+  rw [← h, eVariationOn_trans_left, eVariationOn_trans_right]
+  rfl
```
Comment (pelicanhere) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
theorem length_trans (γ : Path a b) (η : Path b c) :
    (γ.trans η).length = γ.length + η.length := by
  change eVariationOn (γ.trans η) Set.univ = γ.length + η.length
  rw [univ_eq_Icc, ← Icc_union_Icc_eq_Icc nonneg' le_one', 
    eVariationOn.union _ (isGreatest_Icc nonneg') (isLeast_Icc le_one'),
    eVariationOn_trans_left, eVariationOn_trans_right]
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 45]
```diff
@@ -0,0 +1,161 @@
...
+    rw [Path.trans_apply, dif_pos hle, ← Path.extend_apply γ (by grind)]
+  · change eVariationOn (γ.extend ∘ fun t : I ↦ (2 : ℝ) * t) (Icc 0 half) = eVariationOn γ Set.univ
+    calc
+      _ = eVariationOn γ.extend ((fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) half) := by
+          apply eVariationOn.comp_eq_of_monotoneOn
+          intro x hx y hy hxy
+          exact mul_le_mul_of_nonneg_left hxy (by positivity)
+      _ = eVariationOn γ.extend (Icc (0 : ℝ) 1) := by
+          rw [image_double_Icc_half]
+      _ = γ.length := (length_eq_eVariationOn_extend γ).symm
```
Comment (pelicanhere) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
private lemma eVariationOn_trans_left (γ : Path a b) (η : Path b c) :
    eVariationOn (γ.trans η) (Icc 0 half) = γ.length := by
  calc
    _ = eVariationOn (γ.extend ∘ fun t : I ↦ 2 * t) (Icc 0 half) := by
      refine eVariationOn.congr fun t ht => ?_
      rw [Function.comp_apply, ← Path.extend_apply, Path.extend_trans_of_le_half γ η ht.2]
    _ = eVariationOn γ.extend (Icc 0 1) := by
      rw [eVariationOn.comp_eq_of_monotoneOn _ _
        (Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _), image_double_Icc_half]
    _ = γ.length := (length_eq_eVariationOn_extend γ).symm
```
I think this is a bit clearer.

**Review by pelicanhere — CHANGES_REQUESTED** [review]

File: Mathlib/Topology/Path.lean [hunk 46]
```diff
@@ -222,6 +225,12 @@ theorem extend_one : γ.extend 1 = y := by simp
 theorem extend_extends' {a b : X} (γ : Path a b) (t : (Icc 0 1 : Set ℝ)) : γ.extend t = γ t :=
   IccExtend_val _ γ t
 
+/-- Restricting `Path.extend` to the unit interval recovers the original path. -/
+theorem restrict_extend {a b : X} (γ : Path a b) :
+    γ.extend ∘ ((↑) : I → ℝ) = γ := by
+  ext t
+  exact Path.extend_extends' γ t
```
Comment (pelicanhere) [inline Mathlib/Topology/Path.lean]:
```suggestion
theorem restrict_extend {a b : X} (γ : Path a b) :
    γ.extend ∘ ((↑) : I → ℝ) = γ := funext fun t => extend_extends' γ t
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 43 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Nice!

**Comment by Zeta-Wu** [comment]
LLM-generated

**Review by pelicanhere — APPROVED** [review]
LGTM, thanks!

**Comment by scholzhannah** [comment]
Sorry for the delay. As CoolRmal pointed out above, this is probably not the correct generality for this definition and these results. I understand that you don't need a more generalized version and that making big changes to your PR is annoying extra work. But what I am worried about is that adding a less general version and refactoring it later might be more work than just adding the general version from the start. 
The definition in #31766 is probably the correct one. I don't think that it would too hard to adapt some of your results in this PR to that definition. 
(And since you ask above about copying from that PR: I think looking at how things are done there and taking inspiration is fine. If you want to copy parts, then you should contact the author asking whether you can adapt (parts of) their PR). 
Could you try to generalise your PR in this way?

**Comment by Zeta-Wu** [comment]
> Sorry for the delay. As CoolRmal pointed out above, this is probably not the correct generality for this definition and these results. I understand that you don't need a more generalized version and that making big changes to your PR is annoying extra work. But what I am worried about is that adding a less general version and refactoring it later might be more work than just adding the general version from the start. The definition in #31766 is probably the correct one. I don't think that it would too hard to adapt some of your results in this PR to that definition. (And since you ask above about copying from that PR: I think looking at how things are done there and taking inspiration is fine. If you want to copy parts, then you should contact the author asking whether you can adapt (parts of) their PR). Could you try to generalise your PR in this way?

No problem.

**Comment by Zeta-Wu** [comment]
-awaiting-author

**Comment by Zeta-Wu** [comment]
I have added a small new file `ArcLength.lean` using #31766 and redefine `Path.length` with it.
Also I replaced `[PseudoEMetricSpace E]` with `[TopologicalSpace E] [WeakPseudoEMetricSpace E]`.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 47]
```diff
@@ -0,0 +1,81 @@
+/-
+Copyright (c) 2023 Junyan Xu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Junyan Xu, Success Moses, Zhenhua Wu
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean:4]: I assume you asked them for permission to use their code? Otherwise I would have to go find out what the policy is about reusing code from stale PRs.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 48]
```diff
@@ -0,0 +1,81 @@
...
+## Main declarations
+
+* `arcLength`: the arc length of a curve (image of a linear order) on a closed interval.
+* `arcLength_eq_zero_of_le`: arc length vanishes on a reversed interval.
+* `arcLength_self`: arc length vanishes on a degenerate interval.
+* `edist_le_arcLength`: the endpoint distance is bounded above by the arc length.
+* `arcLength_add`: arc length is additive on adjacent intervals.
+* `arcLength_sum`: the arc lengths along a monotone subdivision sum to the whole arc length.
+* `arcLength_comp_eq_of_monotoneOn`: arc length is preserved by monotone reparametrizations.
+* `arcLength_comp_eq_of_antitoneOn`: arc length is preserved by antitone reparametrizations.
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]: You don't need to put all declarations in this section. I think all the easy ones that one would expect don't need to go here. Perhaps the last three can stay. But you could also just delete this section.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 49]
```diff
@@ -0,0 +1,81 @@
...
+theorem arcLength_self (a : α) : arcLength f a a = 0 := arcLength_eq_zero_of_le _ le_rfl
+
+/-- The endpoint distance on `[a, b]` is bounded above by the arc length. -/
+theorem edist_le_arcLength (hab : a ≤ b) : edist (f a) (f b) ≤ arcLength f a b := by
+  refine eVariationOn.edist_le f ?_ ?_ <;> simp [hab]
+
+/-- Arc length is additive on adjacent intervals. -/
+theorem arcLength_add (hab : a ≤ b) (hbc : b ≤ c) :
+    arcLength f a b + arcLength f b c = arcLength f a c := by
+  simp_rw [arcLength]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
  unfold arcLength
```
I think this communicates more clearly what you are doing.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 50]
```diff
@@ -0,0 +1,81 @@
...
+  convert eVariationOn.Icc_add_Icc f (s := Set.univ) hab hbc (by simp) <;> simp
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
  convert eVariationOn.Icc_add_Icc f (s := Set.univ) hab hbc (mem_univ _) <;> simp
```
I think this would be slightly better because it makes clear that there is no complex simplification going on.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 51]
```diff
@@ -0,0 +1,81 @@
...
+
+@[expose] public noncomputable section
+
+variable {α E : Type*} [LinearOrder α] [TopologicalSpace E] [WeakPseudoEMetricSpace E]
+  (f : α → E) {a b c : α}
+
+/-- The arc length of `f` on `[a, b]` is the variation of `f` on the interval `Set.Icc a b`.
+This quantity is zero when `b ≤ a`. -/
+noncomputable def arcLength (a b : α) : ℝ≥0∞ :=
+  eVariationOn f (Set.Icc a b)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
  eVariationOn f (Icc a b)
```
Since you have `Set` open.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 52]
```diff
@@ -0,0 +1,81 @@
...
+    ∑ i ∈ Finset.range n, arcLength f (u i) (u (i + 1)) = arcLength f (u 0) (u n) := by
+  induction n with
+  | zero => rw [arcLength_self, Finset.sum_range_zero]
+  | succ k ih =>
+      rw [Finset.sum_range_succ, ih, arcLength_add f (hu (Nat.zero_le k)) (hu (Nat.le_succ k))]
+
+/-- Arc length is preserved by a monotone reparametrization whose image is exactly the target
+interval. -/
+theorem arcLength_comp_eq_of_monotoneOn {β : Type*} [LinearOrder β] {a b : β} (g : β → α)
+    (hg : MonotoneOn g (Set.Icc a b)) (himage : g '' Set.Icc a b = Set.Icc (g a) (g b)) :
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
    (hg : MonotoneOn g (Icc a b)) (himage : g '' Icc a b = Icc (g a) (g b)) :
```
as above

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 53]
```diff
@@ -0,0 +1,81 @@
...
+    arcLength (f ∘ g) a b = arcLength f (g a) (g b) := by
+  rw [arcLength, arcLength, eVariationOn.comp_eq_of_monotoneOn _ _ hg, himage]
+
+/-- Arc length is preserved by an antitone reparametrization whose image is exactly the target
+interval, with reversed endpoints. -/
+theorem arcLength_comp_eq_of_antitoneOn {β : Type*} [LinearOrder β] {a b : β} (g : β → α)
+    (hg : AntitoneOn g (Set.Icc a b)) (himage : g '' Set.Icc a b = Set.Icc (g b) (g a)) :
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
    (hg : AntitoneOn g (Icc a b)) (himage : g '' Icc a b = Icc (g b) (g a)) :
```
as above

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 54]
```diff
@@ -0,0 +1,145 @@
...
+    γ.length = eVariationOn γ Set.univ := by
+  rw [length, arcLength, ← unitInterval.univ_eq_Icc]
+
+/-- The endpoint distance of a path is bounded above by its length. -/
+theorem edist_le_length (γ : Path a b) :
+    edist a b ≤ γ.length :=
+  calc
+    _ = edist (γ 0) (γ 1) := by rw [γ.source, γ.target]
+    _ ≤ arcLength γ 0 1 := edist_le_arcLength γ (a := 0) (b := 1) zero_le_one
+    _ = γ.length := by rw [length]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    edist a b ≤ γ.length := by
  simp_rw [length, ← γ.source, ← γ.target]
  exact edist_le_arcLength _ zero_le_one
```
Since you now have lemmas about `arcLength` you should use them to prove the lemmas about `length`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 55]
```diff
@@ -0,0 +1,145 @@
...
+
+/-- The constant path has zero length. -/
+@[simp]
+theorem length_refl (x : E) :
+    (refl x).length = 0 := by
+  rw [length_eq_eVariationOn]
+  exact eVariationOn.constant_on (f := refl x) (s := Set.univ) (by simp)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think you should write a version of `eVariationOn.constan_on` for `arcLength` and then use that here.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 56]
```diff
@@ -0,0 +1,145 @@
...
+
+/-- Reversing a path does not change its length. -/
+@[simp]
+theorem length_symm (γ : Path a b) :
+    γ.symm.length = γ.length := by
+  rw [length_eq_eVariationOn, length_eq_eVariationOn, symm_eq_comp γ,
+    eVariationOn.comp_eq_of_antitoneOn _ _
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: Again, you should probably write a version of `eVariationOn.comp_eq_of_antitone` for `arcLength` and use that here.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 57]
```diff
@@ -0,0 +1,145 @@
...
+open scoped ENNReal
+open Set unitInterval
+
+namespace Path
+
+@[expose] public noncomputable section
+
+variable {E : Type*} [TopologicalSpace E] [WeakPseudoEMetricSpace E] {a b c : E}
+
+local notation "half" => (⟨1 / 2, by norm_num⟩ : I)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think you should inline this everywhere. It isn't very long and it is kind of odd to have such a local notation.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 58]
```diff
@@ -0,0 +1,145 @@
...
+
+/-- Auxiliary lemma: the symmetry of the unit interval fixes `half`. -/
+private lemma symm_half : σ half = half := by
+  ext
+  norm_num [unitInterval.symm]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think this is a useful lemma overall. I would move this to an appropriate file and have it be public.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 59]
```diff
@@ -0,0 +1,145 @@
...
+private lemma image_double_Icc_half :
+    (fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) half = Icc (0 : ℝ) 1 := by
+  rw [ContinuousOn.image_Icc_of_monotoneOn nonneg' (by fun_prop)
+    (Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)]
+  simp
+
+/-- Auxiliary lemma: the variation of the left half of `γ.symm`
+is the variation of the right half of `γ`. -/
+private lemma eVariationOn_symm_Icc_left_half (γ : Path a b) :
+    eVariationOn γ.symm (Icc 0 half) = eVariationOn γ (Icc half 1) := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think you should state this in terms of `arcLength`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 60]
```diff
@@ -0,0 +1,145 @@
...
+    _ = eVariationOn γ (Icc half 1) := by
+        rw [ContinuousOn.image_Icc_of_antitoneOn nonneg'
+          ((unitInterval.continuous_symm.continuousOn : ContinuousOn σ (Icc 0 half)))
+          (strictAnti_symm.antitone.antitoneOn _), symm_half, symm_zero]
+
+/-! ## Length of concatenations -/
+/-- Auxiliary lemma: the variation of a concatenation on its left half
+is the length of the first path. -/
+private lemma eVariationOn_trans_left (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc 0 half) = γ.length := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: same as above

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 61]
```diff
@@ -0,0 +1,145 @@
...
+          rw [Function.comp_apply, ← Path.extend_apply, Path.extend_trans_of_le_half γ η ht.2]
+    _ = eVariationOn γ.extend (Icc 0 1) := by
+          rw [eVariationOn.comp_eq_of_monotoneOn _ _
+            ((Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)), image_double_Icc_half]
+    _ = γ.length := (length_eq_eVariationOn_extend γ).symm
+
+/-- Auxiliary lemma: the variation of a concatenation on its right half
+is the length of the second path. -/
+private lemma eVariationOn_trans_right (γ : Path a b) (η : Path b c) :
+    eVariationOn (γ.trans η) (Icc half 1) = η.length := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: same as above

**Review by scholzhannah — COMMENTED** [review]
Thank you for making this change! Here is another batch of comments.

**Comment by scholzhannah** [comment]
> LLM-generated

Btw please elaborate on this in the PR description per our [Use of AI guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai).

File: Mathlib/Topology/EMetricSpace/ArcLength.lean (hunk 47 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/ArcLength.lean:4]: I got Junyan Xu's permission. For Success Moses, I asked but I don't think he is active recently (on Zulip one of his account was active on 31 May).

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 58 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: I am thinking about moving it to `UnitInterval.lean` and have `half` defined under the name space `unitInterval`, what do you think of those two ideas?

**Comment by Zeta-Wu** [comment]
-awaiting-author

**Comment by Zeta-Wu** [comment]
Moved `symm_half` to `UnitInterval.lean` and inlined `half`.
Also tried to use `ArcLength` everywhere.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean (hunk 47 above)
Comment (scholzhannah) [reply Mathlib/Topology/EMetricSpace/ArcLength.lean:4]: Okay, great!

File: Mathlib/Topology/UnitInterval.lean [hunk 62]
```diff
@@ -85,6 +85,11 @@ theorem symm_zero : σ 0 = 1 :=
 theorem symm_one : σ 1 = 0 :=
   Subtype.ext <| by simp [symm]
 
+@[grind =]
+theorem symm_half : σ ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) = ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) := by
+  ext
+  norm_num [symm]
```
Comment (scholzhannah) [inline Mathlib/Topology/UnitInterval.lean:90]:
```suggestion
theorem symm_half : σ ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) = ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) := by
  norm_num [symm]
```

File: Mathlib/Topology/Path.lean [hunk 63]
```diff
@@ -155,6 +153,9 @@ def symm (γ : Path x y) : Path y x where
   source' := by simp
   target' := by simp
 
+/-- The reversed path is obtained by composing the original path with unit-interval symmetry. -/
+theorem symm_eq_comp (γ : Path x y) : ⇑γ.symm = ⇑γ ∘ σ := rfl
```
Comment (scholzhannah) [inline Mathlib/Topology/Path.lean]:
```suggestion
theorem symm_eq_comp (γ : Path x y) : γ.symm = γ ∘ σ := rfl
```
You don't need to write the coercions.

File: Mathlib/Topology/Path.lean [hunk 64]
```diff
@@ -224,6 +225,10 @@ theorem extend_one : γ.extend 1 = y := by simp
 theorem extend_extends' {a b : X} (γ : Path a b) (t : (Icc 0 1 : Set ℝ)) : γ.extend t = γ t :=
   IccExtend_val _ γ t
 
+/-- Restricting `Path.extend` to the unit interval recovers the original path. -/
+theorem restrict_extend {a b : X} (γ : Path a b) :
```
Comment (scholzhannah) [inline Mathlib/Topology/Path.lean]: I think "restrict" is not the correct thing to write in the name. You should usually describe the objects in the theorem not their interpretation. I would call this something like `extend_comp_subtype_val`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 65]
```diff
@@ -0,0 +1,141 @@
...
+/-- The length of a path agrees with the variation of its underlying map on `Set.univ`. -/
+theorem length_eq_eVariationOn (γ : Path a b) :
+    γ.length = eVariationOn γ univ := by
+  rw [length, arcLength, ← univ_eq_Icc]
+
+/-- The endpoint distance of a path is bounded above by its length. -/
+theorem edist_le_length (γ : Path a b) :
+    edist a b ≤ γ.length := by
+    simp_rw [length, ← γ.source, ← γ.target]
+    exact edist_le_arcLength _ zero_le_one
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: This is the correct formatting: 


```suggestion
theorem edist_le_length (γ : Path a b) : edist a b ≤ γ.length := by
  simp_rw [length, ← γ.source, ← γ.target]
  exact edist_le_arcLength _ zero_le_one
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 66]
```diff
@@ -0,0 +1,141 @@
...
+
+/-! ## Definition and basic properties -/
+
+/-- The length of a path is the arc length of its underlying map on the unit interval. -/
+def length (γ : Path a b) : ℝ≥0∞ :=
+  arcLength γ 0 1
+
+/-- The length of a path agrees with the variation of its underlying map on `Set.univ`. -/
+theorem length_eq_eVariationOn (γ : Path a b) :
+    γ.length = eVariationOn γ univ := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
theorem length_eq_eVariationOn (γ : Path a b) : γ.length = eVariationOn γ univ := by
```
If the goal fits on the first line of the theorem, you should usually put it there. This applies in a few more places.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 67]
```diff
@@ -0,0 +1,141 @@
...
+@[simp]
+theorem length_symm (γ : Path a b) :
+    γ.symm.length = γ.length := by
+  rw [length, length, symm_eq_comp γ,
+    arcLength_comp_eq_of_antitoneOn _ _
+      (strictAnti_symm.antitone.antitoneOn (Icc (0 : I) 1))
+      (by
+        rw [ContinuousOn.image_Icc_of_antitoneOn nonneg'
+          (unitInterval.continuous_symm.continuousOn : ContinuousOn σ (Icc (0 : I) 1))
+          (strictAnti_symm.antitone.antitoneOn (Icc (0 : I) 1))]),
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]: I think you should write a lemma saying that `σ '' Icc 0 1 = Icc 0 1` and use that here.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 68]
```diff
@@ -0,0 +1,141 @@
...
+    ((Subtype.mono_coe _).monotoneOn univ), Subtype.coe_image_univ I]
+
+/-- Auxiliary lemma: the affine map `t ↦ 2t` sends the left half
+of the unit interval onto `[0,1]`. -/
+private lemma image_double_Icc_half :
+    (fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) ((⟨(1 / 2 : ℝ), by norm_num⟩ : I))
+        = Icc (0 : ℝ) 1 := by
+  rw [ContinuousOn.image_Icc_of_monotoneOn nonneg' (by fun_prop)
+    (Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)]
+  simp
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  simp [ContinuousOn.image_Icc_of_monotoneOn nonneg' (by fun_prop)
    (Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)]
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 69]
```diff
@@ -0,0 +1,141 @@
...
+  calc
+    _ = eVariationOn γ (σ '' Icc (0 : I) ((⟨(1 / 2 : ℝ), by norm_num⟩ : I))) :=
+        eVariationOn.comp_eq_of_antitoneOn γ σ fun _ _ _ _ hxy => symm_le_symm.mpr hxy
+    _ = eVariationOn γ (Icc ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) 1) := by
+        rw [ContinuousOn.image_Icc_of_antitoneOn nonneg'
+          ((unitInterval.continuous_symm.continuousOn :
+            ContinuousOn σ (Icc 0 ((⟨(1 / 2 : ℝ), by norm_num⟩ : I))))
+          )
+          (strictAnti_symm.antitone.antitoneOn _), symm_half, symm_zero]
+    _ = arcLength γ ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) 1 := by rw [arcLength]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  rw [arcLength, symm_eq_comp γ, 
    eVariationOn.comp_eq_of_antitoneOn γ σ fun _ _ _ _ hxy => symm_le_symm.mpr hxy, 
    unitInterval.continuous_symm.continuousOn.image_Icc_of_antitoneOn nonneg'
    (strictAnti_symm.antitone.antitoneOn _), symm_half, symm_zero, arcLength]
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 70]
```diff
@@ -0,0 +1,141 @@
...
+
+/-! ## Length of concatenations -/
+/-- Auxiliary lemma: the arc length of a concatenation on its left half
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean:97]:
```suggestion
/-! ## Length of concatenations -/

/-- Auxiliary lemma: the arc length of a concatenation on its left half
```

**Review by scholzhannah — COMMENTED** [review]
I have left some more comments.

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 67 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: Nice advice! I will add a general lemma
`theorem symm_image_Icc (a b : I) (h : a ≤ b) : σ '' Icc a b = Icc (σ b) (σ a)`

File: Mathlib/Topology/EMetricSpace/PathLength.lean (hunk 69 above)
Comment (Zeta-Wu) [reply Mathlib/Topology/EMetricSpace/PathLength.lean]: I will replace the third line using `symm_image_Icc` mentioned above.

**Comment by Zeta-Wu** [comment]
-awaiting-author

File: Mathlib/Topology/UnitInterval.lean [hunk 71]
```diff
@@ -126,6 +130,10 @@ def symmHomeomorph : I ≃ₜ I where
 
 theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α := ℝ) h _
 
+theorem symm_image_Icc (a b : I) (h : a ≤ b) : σ '' Icc a b = Icc (σ b) (σ a) :=
+  ContinuousOn.image_Icc_of_antitoneOn h
+    (continuous_symm.continuousOn : ContinuousOn σ (Icc a b))
+    (strictAnti_symm.antitone.antitoneOn (Icc a b))
```
Comment (scholzhannah) [inline Mathlib/Topology/UnitInterval.lean]:
```suggestion
  continuous_symm.continuousOn.image_Icc_of_antitoneOn h
    (strictAnti_symm.antitone.antitoneOn (Icc a b))
```

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 72]
```diff
@@ -0,0 +1,81 @@
...
+
+/-- The endpoint distance on `[a, b]` is bounded above by the arc length. -/
+theorem edist_le_arcLength (hab : a ≤ b) : edist (f a) (f b) ≤ arcLength f a b := by
+  refine eVariationOn.edist_le f ?_ ?_ <;> simp [hab]
+
+/-- Arc length is additive on adjacent intervals. -/
+theorem arcLength_add (hab : a ≤ b) (hbc : b ≤ c) :
+    arcLength f a b + arcLength f b c = arcLength f a c := by
+  unfold arcLength
+  convert eVariationOn.Icc_add_Icc f (s := univ) hab hbc (mem_univ _) <;> simp
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
  convert eVariationOn.Icc_add_Icc f hab hbc (mem_univ _) <;> simp
```
`s` is already specified via `mem_univ`.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 73]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- The endpoint distance of a path is bounded above by its length. -/
+theorem edist_le_length (γ : Path a b) : edist a b ≤ γ.length := by
+    simp_rw [length, ← γ.source, ← γ.target]
+    exact edist_le_arcLength _ zero_le_one
+
+/-- The constant path has zero length. -/
+@[simp]
+theorem length_refl (x : E) : (refl x).length = 0 :=
+  arcLength_eq_zero_of_constantOn (refl x) (a := 0) (b := 1) (by simp)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  arcLength_eq_zero_of_constantOn (refl x) (by simp)
```
This is clear from the goal.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 74]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- Reversing a path does not change its length. -/
+@[simp]
+theorem length_symm (γ : Path a b) : γ.symm.length = γ.length := by
+  rw [length, length, symm_eq_comp γ,
+    arcLength_comp_eq_of_antitoneOn _ _
+      (strictAnti_symm.antitone.antitoneOn (Icc (0 : I) 1))
+      (symm_image_Icc 0 1 nonneg'),
+    symm_one, symm_zero]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  rw [length, length, symm_eq_comp γ, arcLength_comp_eq_of_antitoneOn _ _
    (strictAnti_symm.antitone.antitoneOn (Icc (0 : I) 1)) (symm_image_Icc 0 1 nonneg'), symm_one, 
    symm_zero]
```
I understand why you would format it like this. It is indeed more readable. But I think we usually like rewrites to be as compact as possible and thus typically do something like this.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 75]
```diff
@@ -0,0 +1,127 @@
...
+lemma length_eq_eVariationOn_extend (γ : Path a b) :
+    γ.length = eVariationOn γ.extend (Icc (0 : ℝ) 1) := by
+  rw [length_eq_eVariationOn, ← extend_comp_subtype_val γ, eVariationOn.comp_eq_of_monotoneOn _ _
+    ((Subtype.mono_coe _).monotoneOn univ), Subtype.coe_image_univ I]
+
+/-- Auxiliary lemma: the affine map `t ↦ 2t` sends the left half
+of the unit interval onto `[0,1]`. -/
+private lemma image_double_Icc_half :
+    (fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) ((⟨(1 / 2 : ℝ), by norm_num⟩ : I))
+        = Icc (0 : ℝ) 1 := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    (fun t : I ↦ (2 : ℝ) * t) '' Icc 0 ⟨1 / 2, by norm_num⟩ = Icc 0 1 := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 76]
```diff
@@ -0,0 +1,127 @@
...
+    arcLength_comp_eq_of_antitoneOn _ _
+      (strictAnti_symm.antitone.antitoneOn (Icc (0 : I) 1))
+      (symm_image_Icc 0 1 nonneg'),
+    symm_one, symm_zero]
+
+/-! ## Auxiliary lemmas for concatenation -/
+
+/-- The length of a path is the variation of its extension on `[0,1]`. -/
+lemma length_eq_eVariationOn_extend (γ : Path a b) :
+    γ.length = eVariationOn γ.extend (Icc (0 : ℝ) 1) := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    γ.length = eVariationOn γ.extend (Icc 0 1) := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 77]
```diff
@@ -0,0 +1,127 @@
...
+  rw [length_eq_eVariationOn, ← extend_comp_subtype_val γ, eVariationOn.comp_eq_of_monotoneOn _ _
+    ((Subtype.mono_coe _).monotoneOn univ), Subtype.coe_image_univ I]
+
+/-- Auxiliary lemma: the affine map `t ↦ 2t` sends the left half
+of the unit interval onto `[0,1]`. -/
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
/-- Auxiliary lemma: the affine map `t ↦ 2t` sends the left half of the unit interval onto 
`[0,1]`. -/
```

Again, I understand this formatting choice. But I think we generally try to fit as much as possible on one line. Same below.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 78]
```diff
@@ -0,0 +1,127 @@
...
+    (fun t : I ↦ (2 : ℝ) * t) '' Icc (0 : I) ((⟨(1 / 2 : ℝ), by norm_num⟩ : I))
+        = Icc (0 : ℝ) 1 := by
+  simp [ContinuousOn.image_Icc_of_monotoneOn nonneg' (by fun_prop)
+    (Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)]
+
+/-- Auxiliary lemma: the arc length of the left half of `γ.symm`
+is the arc length of the right half of `γ`. -/
+private lemma arcLength_symm_left_half (γ : Path a b) :
+    arcLength γ.symm 0 ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) =
+      arcLength γ ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) 1 := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    arcLength γ.symm 0 ⟨1 / 2, by norm_num⟩ = arcLength γ ⟨1 / 2, by norm_num⟩ 1 := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 79]
```diff
@@ -0,0 +1,127 @@
...
+  rw [arcLength, symm_eq_comp γ,
+    eVariationOn.comp_eq_of_antitoneOn γ σ fun _ _ _ _ hxy => symm_le_symm.mpr hxy,
+    symm_image_Icc 0 ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) nonneg', symm_half,
+    symm_zero, arcLength]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  rw [arcLength, symm_eq_comp γ,
    eVariationOn.comp_eq_of_antitoneOn γ σ fun _ _ _ _ hxy => symm_le_symm.mpr hxy,
    symm_image_Icc 0 ⟨1 / 2, by norm_num⟩ nonneg', symm_half, symm_zero, arcLength]
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 80]
```diff
@@ -0,0 +1,127 @@
...
+
+/-! ## Length of concatenations -/
+
+/-- Auxiliary lemma: the arc length of a concatenation on its left half
+is the length of the first path. -/
+private lemma arcLength_trans_left (γ : Path a b) (η : Path b c) :
+    arcLength (γ.trans η) 0 ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) = γ.length := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    arcLength (γ.trans η) 0 ⟨1 / 2, by norm_num⟩ = γ.length := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 81]
```diff
@@ -0,0 +1,127 @@
...
+  calc
+    _ = eVariationOn (γ.extend ∘ fun t : I ↦ 2 * t) (Icc 0 ((⟨(1 / 2 : ℝ), by norm_num⟩ : I))) := by
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    _ = eVariationOn (γ.extend ∘ fun t : I ↦ 2 * t) (Icc 0 ⟨1 / 2, by norm_num⟩) := by
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 82]
```diff
@@ -0,0 +1,127 @@
...
+          rw [arcLength]
+          refine eVariationOn.congr fun t ht => ?_
+          rw [Function.comp_apply, ← Path.extend_apply, Path.extend_trans_of_le_half γ η ht.2]
+    _ = eVariationOn γ.extend (Icc 0 1) := by
+          rw [eVariationOn.comp_eq_of_monotoneOn _ _
+            ((Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _)), image_double_Icc_half]
+    _ = γ.length := (length_eq_eVariationOn_extend γ).symm
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  rw [arcLength, length_eq_eVariationOn_extend γ, ← image_double_Icc_half,
    ← eVariationOn.comp_eq_of_monotoneOn _ _
    ((Subtype.mono_coe _ |>.const_mul zero_le_two |>.monotoneOn _))]
  refine eVariationOn.congr fun t ht => ?_
  rw [Function.comp_apply, ← extend_apply, extend_trans_of_le_half γ η ht.2]
```
The same proof. Just a little more compact.

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 83]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- Auxiliary lemma: the arc length of a concatenation on its right half
+is the length of the second path. -/
+private lemma arcLength_trans_right (γ : Path a b) (η : Path b c) :
+    arcLength (γ.trans η) ((⟨(1 / 2 : ℝ), by norm_num⟩ : I)) 1 = η.length := by
+  rw [← arcLength_symm_left_half (γ := γ.trans η), Path.trans_symm, ← length_symm]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
    arcLength (γ.trans η) ⟨1 / 2, by norm_num⟩ 1 = η.length := by
  rw [← arcLength_symm_left_half, trans_symm, ← length_symm]
```

File: Mathlib/Topology/EMetricSpace/PathLength.lean [hunk 84]
```diff
@@ -0,0 +1,127 @@
...
+  arcLength γ 0 1
+
+/-- The length of a path agrees with the variation of its underlying map on `Set.univ`. -/
+theorem length_eq_eVariationOn (γ : Path a b) : γ.length = eVariationOn γ univ := by
+  rw [length, arcLength, ← univ_eq_Icc]
+
+/-- The endpoint distance of a path is bounded above by its length. -/
+theorem edist_le_length (γ : Path a b) : edist a b ≤ γ.length := by
+    simp_rw [length, ← γ.source, ← γ.target]
+    exact edist_le_arcLength _ zero_le_one
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/PathLength.lean]:
```suggestion
  simp_rw [length, ← γ.source, ← γ.target]
  exact edist_le_arcLength _ zero_le_one
```
This is the correct indentation.

**Review by scholzhannah — COMMENTED** [review]
I think we are approaching the finish line! Most of my comments below are cosmetic in nature. 
I have also thought about the private lemmas. I think there really is no hurt in having them be public. Sometimes we have private lemmas because there is a more general public lemma and so there should never be a reason to use the less general one. But I don't think that this is the case here. So I would advocate for having them be public.

**Comment by Zeta-Wu** [comment]
-awaiting-author

**Comment by Zeta-Wu** [comment]
> I think we are approaching the finish line! Most of my comments below are cosmetic in nature. I have also thought about the private lemmas. I think there really is no hurt in having them be public. Sometimes we have private lemmas because there is a more general public lemma and so there should never be a reason to use the less general one. But I don't think that this is the case here. So I would advocate for having them be public.

Cool!
All issues are resolved.
Also those private lemmas are now public, and some doc-strings for those lemmas are modified to full fill the lines.
